US08080566B1
A 100-mL round-bottomed flask was charged with a solution of tert-butyl 3-(1H-pyrazol-4-yl)piperidine-1-carboxylate (3.6 g, 14.34 mmol, 1.00 equiv) in 1,4-dioxane (20 mL) and hydrogen chloride (6M, 20 mL). The resulting solution was heated to reflux for 1 hour. Upon completion, the resulting mixture was cooled down and concentrated on a rotary evaporator affording 3-(1H-pyrazol-4-yl)piperidine hydrochloride as white solid (1.5 g, 47%).

reactant | tert-butyl 3-(1H-pyrazol-4-yl)piperidine-1-carboxylate | 14.34 mmol, 3.6 g, 1.00 equiv | N1N=CC(=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C13H21N3O2
reactant | hydrogen chloride | 6M, 20 mL | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-(1H-pyrazol-4-yl)piperidine hydrochloride | 1.5 g, 47% | Cl.N1N=CC(=C1)C1CNCCC1 | InChI=1S/C8H13N3.ClH/c1-2-7(4-9-3-1)8-5-10-11-6-8;/h5-7,9H,1-4H2,(H,10,11);1H
